US08383683B2
To a solution of mercapto-acetic acid ethyl ester (2.4 g, 19.86 mmol) in dry DMF (20 mL) was added NaH (556 mg, 23.27 mmol, 60% in mineral oil). The mixture was stirred for 30 min. at room temperature followed by dropwise addition of 2,4-dichloro-1-chloromethoxy-benzene (3.5 g, 16.55 mmol), stirring was continued for 16 hrs at ambient temperature. The reaction was quenched by addition of water (50 mL) and extracted with diethyl ether (2×50 mL). The combined organic phases were washed with saturated aq. ammonium chloride (50 mL), dried (Na2SO4), filtered and evaporated in vacuo. The residue was dissolved in EtOH (20 mL) and to this solution was added aq. 32% NaOH (1 mL) and water (10 mL). Stirring was continued for 16 hrs at room temperature. The volatiles were evaporated in vacuo, water (20 mL) was added followed by washing with diethyl ether (20 mL). The aqueous phase was acidified to pH˜1 with conc. HCl followed by extraction with diethyl ether (2×25 mL). The combined organic phases were dried (Na2SO4), filtered and the solvent evaporated in vacuo affording 2.5 g (57%) of crude (2,4-dichloro-phenoxymethylsulfanyl)-acetic acid as a solid.

reactant | mercapto-acetic acid ethyl ester | 19.86 mmol, 2.4 g | C(C)OC(CS)=O | C4H8O2S
reactant | NaH | 23.27 mmol, 556 mg | [H-].[Na+]
reactant | 2,4-dichloro-1-chloromethoxy-benzene | 16.55 mmol, 3.5 g | ClC1=C(C=CC(=C1)Cl)OCCl | C7H5Cl3O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2,4-dichloro-phenoxymethylsulfanyl)-acetic acid | 2.5 g, 57% | ClC1=C(OCSCC(=O)O)C=CC(=C1)Cl | C9H8Cl2O3S
